US06221907B1
303 ml of triethylamine is added over 10 minutes at ambient temperature to an agitated mixture of 200 g of methyl gallate and 2 litres of methylene chloride. After dissolution, the reaction medium is cooled down to 0-5° C. then 130 ml of dichlorodimethylsilane is added over one hour at this temperature, agitation is carried out for a further 30 minutes at this temperature. While maintaining the temperature at 0-5° C., 303.2 ml of triethylamine is added over 25 minutes then 227.6 g of tosyl chloride is added over 15 minutes. Agitation is continued for one hour at 0-5° C., and 200 ml of acetic acid then 500 ml of demineralized water are added over 10 minutes under agitation and while allowing the temperature to rise to 20-22° C., and agitation is continued for 15 minutes at 20° C. The methylene chloride is distilled off at a constant volume (3.3 l) under reduced pressure replacing it with demineralized water, agitation is carried out for 2 hours at 20° C., followed by separation, washing with demineralized water, in order to obtain 523 g (damp weight) of methyl 3,4-dihydroxy-5-[((4-methylphenyl)-sulphonyl]oxy]-benzoate (methyl 3-tosylgallate). The damp product obtained is taken up in 2.17 1 de soda (2N) and 2.17 1 of methylene chloride. Agitation is carried out at 20° C. until dissolution is achieved then 18 g of tetrabutylammonium bromide is added at 20° C. then, over 15 minutes at 20° C., 237 ml of dimethyl sulphate is added. The reaction medium is agitated for 1.5 hours at 20-22° C. 78 ml of triethylamine is added at 20-22° C. and agitation is carried out overnight at 20-22° C., followed by decanting and washing with 400 ml of demineralized water, 20 ml of pure acetic acid is added to the organic phase, followed by agitation for 15 minutes, adding 400 ml of demineralized water then decanting. The combined organic phases are concentrated to dryness, firstly under atmospheric pressure then under reduced pressure at 40 mm Hg and 60° C. outside temperature. Entrainment is carried out with 400 ml of methanol then the dry extract obtained is taken up in 600 ml of methanol, heated under reflux until the product has totally dissolved, followed by cooling down to 0-5° C. and agitation for one hour at this temperature. After separation, washing twice with 200 ml of methanol at 10° C. and drying at 40° C. under reduced pressure, 330.4 g of methyl 3,4-dimethoxy-5-[[(4-methylphenyl)-sulphonyl]oxy]-benzoate is thus collected. The crude product is purified by recrystallization from 330 ml of toluene. After 2 hours of agitation −10° C., separation is carried out, followed by washing twice with 82 ml of toluene, cooling down to −15° C. and drying under reduced pressure at 40° C. in order to obtain 230.3 g of the purified sought product.

reactant | methyl gallate | 200 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)OC | C8H8O5
reactant | dichlorodimethylsilane | 130 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | tosyl chloride | 227.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 303.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 litres | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 303 ml | C(C)N(CC)CC | C6H15N
product | methyl 3,4-dihydroxy-5-[((4-methylphenyl)-sulphonyl]oxy]-benzoate (methyl 3-tosylgallate) | 523 g | CC1C(C(=O)O)=CC(=C(C1(O)S(=O)(=O)C1=CC=C(C)C=C1)O)O.OC=1C=C(C(=O)OC)C=C(C1O)OS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C15H14O7S.C15H16O7S/c1-9-3-5-11(6-4-9)23(19,20)22-13-8-10(15(18)21-2)7-12(16)14(13)17;1-8-3-5-10(6-4-8)23(21,22)15(20)9(2)11(14(18)19)7-12(16)13(15)17/h3-8,16-17H,1-2H3;3-7,9,16-17,20H,1-2H3,(H,18,19)
